US08802659B2
3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2,2-difluoropropanoic acid
A solution of 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (150 mg, 0.483 mmol) and 3-amino-2,2-difluoro-propionic acid (60.4 mg, 0.483 mmol) in ethanol (0.7 mL, 10 mmol) was heated to reflux for 2 h. The yellow solution was then cooled to room temperature and sodium cyanoborohydride (36.4 mg, 0.580 mmol) was added to the stirring solution. The resulting mixture was heated to reflux for 1 h. After cooling to room temperature, citric acid was added, and the solvent removed under vacuum. The resulting solid was suspended in water and collected via filtration. The filtrate was washed thoroughly with water (4×), ether (3×), and hexane (3×). The resulting solid was dried on the filter to give the title compound as a white solid (128.8 mg, 64%). 1H NMR (400 MHz, CDCl3) δ: 7.92 (s, 1H), 7.87 (d, J=8.5 Hz, 1H), 7.82 (d, J=9.1 Hz, 1H), 7.52 (dd, J=8.4, 1.8 Hz, 1H), 7.30 (d, J=2.2 Hz, 1H), 7.19 (dd, J=9.0, 2.4 Hz, 1H), 4.45 (s, 2H), 4.40 (m, 1H), 3.61 (t, J=13.8 Hz, 2H), 2.28-2.31 (m, 2H), 1.92-1.95 (m, 2H), 1.49-1.14 (m, 5H), 0.94 (s, 9H).

reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.483 mmol, 150 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | 3-amino-2,2-difluoro-propionic acid | 0.483 mmol, 60.4 mg | NCC(C(=O)O)(F)F | C3H5F2NO2
reactant | ethanol | 10 mmol, 0.7 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.580 mmol, 36.4 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3-((6-(trans-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-2,2-difluoropropanoic acid | 128.8 mg, 64% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCC(C(=O)O)(F)F | C24H31F2NO3
